Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, transaminitis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI/EVENTS:  ___ h/o IBS presented with 9days of fever, 
headache, transaminitis.  She was in USOH until 9d ago developed 
R postauricular lymph nodes and headache.  Subsequently, she 
noted fevers - intermittent in nature up to 102 degrees.  Also 
notes nausea (no vomiting), myalgia, diaphoresis, chills.  She 
presented to her PCP ___ ___ - and was found to have mild 
leukopenia, thrombocytopenia, and transaminitis.  Rapid flu, 
strep, mono was negative.  She ultimately had babesia, Lyme, 
anaplasma, CMV, EBV serologies sent on ___.  These were all 
negative (except babesia serologies which is still pending).  Of 
note, the CMV, EBV IgG were negative - indicating no prior 
infection.   
   She was given doxycycline - which she has taken over the past 
4 days - with no clear sign of change in symptoms.  last night, 
she developed temp to 103 and had N/V x1 this morning.  Due to 
persistent symptoms, she was recommended to come to the ED.  She 
does feeling better overall, however, otherwise.  
   In the ED, she was afebrile, but signs of increasing 
transaminitis. Thrombocytopenia and leukopenia had resolved. 

ROS: Does note mild LUQ pain - worse with coughing.  No recent 
travels or significant hiking trips.  per HPI, denies vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  A 10 pt review of sxs was otherwise negative.
. 

 
Past Medical History:
# IBS
# Anxiety/depression
# Reactive hypoglycemia
# Dysphagia
# Internal hemorrhoids
 
Social History:
___
Family History:
___ in brother.
___ "condition" in sister
___ degeneration in father.
Mother had breast cancer. She had a colectomy due to unspecified 
problems.
Father's sister and mother had breast cancer.
Mother had SCC and basal cell, father had melanoma and basal 
cell. 
 
Physical Exam:
Vital Signs: 98.0 106/60 77 16 99% RA 
glucose: 
. 
GEN: NAD, well-appearing, lying in bed, alert, interactive
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no exudates, pharyngeal tonsil mild 
enlargement - no exudate.  
NECK: supple, LAD+ Cervical, post auricular, post cervical 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, liver edge below R costal margin, no 
splenomegaly  
EXT: warm, no c/c/e, no synovitis, or knee effusion
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent

 
Pertinent Results:
LABS: SEE BELOW
(___): 6.9> 12.3/36.9<158  Atyp Lymph 19%
BUN/Cr ___ Na 137 K 3.8 
ALT 307 AST 279 LD 660 AP 549 TBili 1.9 IndBili 1.0 

OTHER DATA: 
# RUQ U/S (___): 1. The liver appears enlarged, extending to 
the left upper quadrant and overlapping with the spleen, however 
is otherwise normal in appearance with no focal lesions seen. 2. 
Spleen is top-normal in size measuring 12 mm. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o IBS presented with 9days of fever, 
headache, transaminitis. 

# ID: Ms. ___ was admitted with constellation of symptoms 
fever, headache, chills, N/V,  cervical ___, transaminitis, 
atypical lymphocytosis, mild hepatomegaly most c/w acute EBV 
infection.  Outpt tests included strep, Lyme, anaplasma 
serologies which all returned negative.  
    Given the high suspicion, Monospot was sent and returned 
positive - consistent with acute EBV infection.  Recent 
serologies obtained from the outpt showed no prior infection to 
EBV, CMV - indicating her susceptibility to acute infection (as 
noted  for this presentation).  She was treated with supportive 
care: motrin/Tylenol PRN and she was able to tolerate regular 
diet without difficulty.  Steroids and antivirals (acyclovir) 
were considered unnecessary (and unlikely to help). 
   Her LFTs were elevated but were stable.  RUQ U/S here showed 
mild hepatomegaly, borderline increased spleen size - but no 
significant splenic enlargement to suspect she was at risk of 
rupture.  She was discharged in good condition. 

# Depression/anxiety: cont Prozac

# GERD/dysphagia: cont Prilosec

# OTHER ISSUES AS OUTLINED. 
. 
#FEN:   [] IVF   [X] Oral   [] NPO   [] Tube Feeds   [] 
Parenteral
#DVT PROPHYLAXIS: ambulatory
#LINES/DRAINS:   [X] Peripheral   [] PICC   [] CVL   [] Foley
#PRECAUTIONS: None
#COMMUNICATION: Pt
#CONSULTS: None
#CODE STATUS: [X]full code []DNR/DNI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. Doxycycline Hyclate 100 mg PO Q12H 
4. Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 

 
Discharge Medications:
1.  FLUoxetine 40 mg PO DAILY  
2.  Omeprazole 20 mg PO BID  
3.  Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute EBV infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
   It was a pleasure looking after you.  As you know, you were 
admitted with fever, chills, nausea, and elevated liver function 
tests.  Ultimately, it was discovered that your symptoms are 
attributed to an acute EBV ___ Virus) infection - 
acute mononucleosis.   As discussed, there is no clear medical 
treatments for this and the best course of action is rest and 
adequate oral/fluid intake.

There are no changes to your medications.  You may take Tylenol 
or Motrin as needed (Tylenol should be less than 2 gm total per 
day to avoid insult to liver).  

We wish you good health!

Your ___ Team
 
Followup Instructions:
___